US07361659B2
7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [2-chloro-5-(4-methyl-piperazine-1-sulfonyl)-thiophen-3-yl]-amide
The title compound was prepared from 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.1) and 2-chloro-5-(4-methyl-piperazine-1-sulfonyl)-thiophen-3-ylamine (example B.22) according to general procedure II.

reactant | 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)F | C15H8F5N3O2
reactant | 2-chloro-5-(4-methyl-piperazine-1-sulfonyl)-thiophen-3-ylamine | ClC=1SC(=CC1N)S(=O)(=O)N1CCN(CC1)C | C9H14ClN3O2S2
product | 7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [2-chloro-5-(4-methyl-piperazine-1-sulfonyl)-thiophen-3-yl]-amide | ClC=1SC(=CC1NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)C(F)(F)F)S(=O)(=O)N2CCN(CC2)C | C24H20ClF5N6O3S2
